US04018802
Step A-4. Preparation of 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane
1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(3-trifluoromethylphenoxy)-2-pentyne (40.18 g.; 0.104 mole) is dissolved in ethyl acetate (200 ml.). 5% Palladium on carbon (5 g.) is added and the mixture is hydrogenated on the Parr apparatus at an initial pressure of 45 lbs./in2 and 25°. When 0.208 mole of hydrogen is absorbed, the catalyst is removed by filtration and the solvent is evaporated under vacuum to give the title compound as a light orange residual oil, yield 40.60 g.; pmr (CDCl3) δ 2.13 (3H, s CH3COO), 4.10 (2H, d CH2O), 5.20 (1H, m CHOCO), 7.22 (4H, m Aryl H).

reactant | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(3-trifluoromethylphenoxy)-2-pentyne | 0.104 mole, 40.18 g | O1C(CCCC1)OCC#CC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O | C19H21F3O5
reactant | hydrogen | 0.208 mole | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 5 g | [Pd] | Pd
product | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane | O1C(CCCC1)OCCCC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O | C19H25F3O5
